US05064861
STEP B: N'-(tert-butoxycarbonyl)-N-(2-naphthyl-acetyl)-1,4-diamino-butane
11.16 g of naphthoxy acetic acid chloride in solution in 50 ml of tetrahydrofuran were added at 0° C. to +10° C. to a solution of 10.32 g of N-(tert-butoxycarbonyl)-1,4-diamino butane in 110 ml of tetrahydrofuran and 6.7 g of triethylamine. The mixture was stirred for 90 minutes at ambient temperature and the insoluble part was filtered off. The fitrate was evaporated to dryness and the 17.78 g of residue were chromatographed on silica (eluant: hexane-ethyl acetate (1-1)) to obtain 10 g of the expected product melting at 102° C.

reactant | naphthoxy acetic acid chloride | 11.16 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)Cl | C12H9ClO2
reactant | N-(tert-butoxycarbonyl)-1,4-diamino butane | 10.32 g | C(C)(C)(C)OC(=O)NCCCCN | C9H20N2O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 6.7 g | C(C)N(CC)CC | C6H15N
product | N'-(tert-butoxycarbonyl)-N-(2-naphthyl-acetyl)-1,4-diamino-butane | 10 g | C(C)(C)(C)OC(=O)NCCCCNC(CC1=CC2=CC=CC=C2C=C1)=O | C21H28N2O3
